### ISSUE TITLE
change _ at h fails

### ISSUE THREAD

**Issue by sven-manthe** [leanprover/lean4#4885]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [X] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [X] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [X] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

When rewriting creates a metavariable, this leads to unexpected type mismatches with later metavariables, even in expressions like `change _ at h`

### Context

See https://leanprover.zulipchat.com/#narrow/stream/270676-lean4/topic/change.20_.20at.20h.20fails

### Steps to Reproduce

```
def g (_ : Nat) : Nat := 0
theorem iff (a : Nat) :
  0 = g 0 ↔ 0 = a := by sorry
theorem test
  (T : Unit)
  (h : 0 = g 0)
  (ih : T = T) --removing this, or even swapping it with h, parameter makes change succeed below
  : 0 = g 0 := by
  rw [iff] at h
  change _ at h --fails with type mismatch
  /-
  type mismatch
    this
  has type
    ?m.158 : Sort ?u.157
  but is expected to have type
    0 = ?m.129 : Prop
  -/
```

**Expected behavior:**

change succeeds and does nothing

**Actual behavior:**

change fails with type mismatch

### Versions

Lean 4.10.0 (also earlier)

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.
